US04352811
3-{1-[4,4-bis(4-Fluorophenyl)-1-butyl]-4-piperidyl}-5-hydroxy-1,2-benzisoxazole hydrochloride
A mixture of 1.5 g of 5-hydroxy-3-(4-piperidyl)-1,2-benzisoxazole hydrobromide, 0.84 g of sodium bicarbonate, 25 ml of dimethylformamide, a few crystals of potassium iodide and 1.4 g of 4-chloro-1,1-bis(4-fluorophenyl)butane was stirred at 90° for 8 hrs. After cooling to ambient temperature, the mixture was poured into water and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate was washed with water and brine, and the the solvent was removed in vacuo to yield a solid. The solid was triturated with ether and was filtered. The filter cake was partially dissolved in ethanol and a saturated methanol-hydrogen chloride solution was added, followed by warming to obtain a solution. The salt was precipitated by adding ether. Two recrystallizations from ethanol-ether afforded 1.0 g (40%) of product, mp 234°-236°.

reactant | 5-hydroxy-3-(4-piperidyl)-1,2-benzisoxazole hydrobromide | 1.5 g | Br.OC=1C=CC2=C(C(=NO2)C2CCNCC2)C1
reactant | sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 4-chloro-1,1-bis(4-fluorophenyl)butane | 1.4 g | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
solvent | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-{1-[4,4-bis(4-Fluorophenyl)-1-butyl]-4-piperidyl}-5-hydroxy-1,2-benzisoxazole hydrochloride | 1.0 g, 40% | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C1=NOC2=C1C=C(C=C2)O)C2=CC=C(C=C2)F | InChI=1S/C28H28F2N2O2.ClH/c29-22-7-3-19(4-8-22)25(20-5-9-23(30)10-6-20)2-1-15-32-16-13-21(14-17-32)28-26-18-24(33)11-12-27(26)34-31-28;/h3-12,18,21,25,33H,1-2,13-17H2;1H
